US07399759B2
2-Mercapto-3,5-dimethylbenzoic acid
A mixture of 2-amino-3,5-dimethylbenzoic acid (5.6 g, 33.9 mmol), sodium hydroxide (1.5 g, 37.5 mmol), sodium nitrite (2.3 g, 34.0 mmol) and water (40 ml) was added dropwise to a mixture of concentrated hydrochloric acid (10 ml) and ice (10 g) under cooling with ice while adding ice in order to keep the reaction temperature under 5° C. The reaction mixture was stirred under ice-cooling condition for 30 minutes, neutralized with potassium acetate and added to a solution of potassium o-ethyl dithiocarbonate (16.9 g, 105.4 mmol) in water (50 ml) at 80° C. After stirring at the same temperature for 20 minutes, the reaction mixture was acidified (pH 3) by use of concentrated hydrochloric acid. The water layer was separated. 10% aqueous sodium hydroxide solution (30 ml) was added to the oily substance and the mixture was stirred at 80° C. for 2 hrs. Furthermore, sodium hydrogen sulfite (4.0 g) was added to the mixture, and the mixture was stirred at the same temperature for 10 minutes. The reaction mixture was filtered and the filtrate was acidified (about pH 4) by use of concentrated hydrochloric acid. The precipitate was collected by filtration and dissolved in a mixture of methanol (5 ml) and diisopropylether (80 ml), dried and concentrated under reduced pressure to give the titled compound as crystals (3.6 g, 58%).

reactant | 2-amino-3,5-dimethylbenzoic acid | 33.9 mmol, 5.6 g | NC1=C(C(=O)O)C=C(C=C1C)C | C9H11NO2
reactant | sodium hydroxide | 37.5 mmol, 1.5 g | [OH-].[Na+]
reactant | sodium nitrite | 34.0 mmol, 2.3 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | potassium o-ethyl dithiocarbonate | 105.4 mmol, 16.9 g | CCOC(=S)[S-].[K+]
solvent | water | 50 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 2-Mercapto-3,5-dimethylbenzoic acid | 3.6 g, 58% | SC1=C(C(=O)O)C=C(C=C1C)C | C9H10O2S
